US04724237
Preparation of 1-methyl-2-(3'-trifluoromethylphenyl)aminomethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine
According to the method of Example 5, 1-methyl-2-chloromethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine (200 mg, 0.66 mmole) and m-trifluoromethyl aniline (319 mg, 1.97 mmole) were combined in 2 ml of dry N,N-dimethylformamide, and potassium carbonate (273 mg, 1.97 mmole) and sodium iodide (198 mg, 1.32 mmole) were added to this mixture (which was heated at 65° C. for 18 hours). After solvent-removal, partitioning, separation, washing, drying and concentrating, the analytical product was obtained via chromatography on silica gel (ethyl acetate-hexane elution, 3:7 v/v) and was shown to be 96% pure by HPLC.

reactant | 1-methyl-2-chloromethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine | 0.66 mmole, 200 mg | CN1C(CN=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)CCl | C17H16ClFN2
reactant | m-trifluoromethyl aniline | 1.97 mmole, 319 mg | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | potassium carbonate | 1.97 mmole, 273 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1.32 mmole, 198 mg | [I-].[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-methyl-2-(3'-trifluoromethylphenyl)aminomethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine | CN1C(CN=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)CNC2=CC(=CC=C2)C(F)(F)F | C24H21F4N3
